US06156767
3-(2-tert-Butoxycarbonylamino-ethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid ethyl ester
To a solution of 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid ethyl ester (1.5 g in 30 mL dry tetrahydrofuran) at 0° C. was added a solution of di-tert-butyl dicarbonate (1.9 g in 3 mL tetrahydrofuran) followed by an aqueous solution of potassium carbonate (1 g in 10 mL water) and the resulting suspension stirred vigourously at 0° C. After 12 minutes, the reaction was quenched by the addition of excess saturated aqueous ammonium chloride and the mixture extracted with ethyl acetate. The organic portion was dried over sodium sulfate and concentrated in vacuo. The resulting solid was washed sequentially with methylene chloride, hexane and ethyl acetate to give the title compound (1.77 g).

reactant | 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid ethyl ester | 30 mL, 1.5 g | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN | C21H24N2O2
reactant | di-tert-butyl dicarbonate | 3 mL, 1.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | potassium carbonate | 10 mL, 1 g | C([O-])([O-])=O.[K+].[K+]
product | 3-(2-tert-Butoxycarbonylamino-ethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid ethyl ester | 1.77 g | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNC(=O)OC(C)(C)C | C26H32N2O4
